Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine / Infliximab / Penicillins / Shellfish / Lactose
 
Attending: ___
 
Chief Complaint:
black stool, anemia
 
Major Surgical or Invasive Procedure:
esophagogastroduodenoscopy
colonoscopy

 
History of Present Illness:
___ year old male with largely small bowel and perianal Crohns 
with prior duodenal ulcers and surgery for jejunal structures 
now with black stool at home. The patient is maintained on 
pentasa and 6-mp and was doing quite well from a Crohn's 
perspective until a couple weeks ago when he had a day of 
intense nausea which he attributed to something he ate. He has 
had some nausea intermittently since that time which is not 
unusual for him. He has had no abdominal pain although he has 
diffuse pain thought perhaps to be related to a polyneuropathy 
in the setting of prior remicade use. Beginning ___ days ago he 
noted black stool. He had taken advil twice last week before the 
onset of the black stools and has also noticed some recent 
heartburn/dyspepsia although again no abd pain. Each day since 
the onset he has had 1 black BM per day. No recent pepto bismol 
or iron use. His joints are sore which he states generally 
happens with Crohn's activity. 

He called his GI provider Dr ___ was going to do an 
___ as an outpatient but serial hcts showed decline in his 
hematocrit so he was called in for closer observation and 
planned for an ___ w MAC on ___ with Dr ___.

Also, of note, Dr ___ changed the patient's 
___. 

Remainder of a 10 point ROS otherwise notable for chronic 
diffuse pain. No additional complaints.
 
Past Medical History:
PMH: Crohn's with strictures and perianal fistula, h/o pSBO, B12
deficiency, ___ neuropathy ? ___ infliximab
 
PSH: SBR x 2 with stricturoplasty x 2 (___), ___ ischiorectal
abscess with fistulotomy and ___ placement (___), SBR with 
LOA and stricturoplasty x 3 (___), appendectomy.

 
Social History:
___
Family History:
Father- irritable bowel disease.
Father's family has heart disease.
Mother's family had lung cancer, breast cancer.
 
Physical Exam:
PHYSICAL EXAM:  
VS: T afebrile, BP 112/74, HR 64, RR 16, sat 96% on air  
GENL: pleasant, NAD  
EENT: PERRL, EOMI, sclerae anicteric, pale conjunctivae, moist 
mucous membranes, no ulcers / lesions / thrush  
NECK: supple  
CARD: RRR, normal S1, S2, no murmurs / rubs / gallops  
PULM: clear to auscultation bilaterally w/o wheezes / rhonchi / 
rales  
BACK: no focal tenderness, no costovertebral angle tenderness  
ABDM: non-distended, normoactive bowel sounds, soft, non-tender, 
no hepatosplenomegaly  
MSK: mild left ankle swelling
EXTR: warm and well perfused, mild edema L > R (as is generally 
the case per the patient), 2+ DP pulses palpable bilaterally  
LYMPH: no sig cervical, axillary, or inguinal lymphadenopathy  
SKIN: no rashes, no jaundice  
NEURO: awake, alert and oriented x3, CNS/PNS grossly intact  
PSYCH: non-anxious, normal affect  

 
Pertinent Results:
___ 04:20PM   WBC-2.9* RBC-2.80* HGB-9.7* HCT-29.4* 
MCV-105* MCH-34.8* MCHC-33.2 RDW-16.9*
___ 04:20PM   PLT COUNT-204

no recent abdominal imaging

___ ___:
A retrograde single balloon enteroscopy was performed. 
The enteroscope was advanced until approximately 40 cm from the 
ileocecal valve. Normal mucosa was noted until 40 cm from the 
ileocecal valve. 
The scope could not be advanced further because of acute 
angulations of the ileum
 
Brief Hospital Course:
___ yo male with small bowel and perianal Crohn's now with c/o 
black stools and 10-pt hematocrit drop since ___. 

#1. GIB. Concern for PUD vs Crohn's associated ulcers. Perhaps 
precipitated by Advil usage. No LH, dizziness, or abdominal 
pain. GI was consutled and pt underwent EGD which showed a 
___ tear at the GE junction and mild deformity of the 
second part of the duodenum, not explaining his blood loss. 
Colonoscopy showed normal mucosa with a suboptimal bowel prep. 
As a small bowel source was possible, MRE was obtained and 
showed no acute change; there were "areas of chronic stricturing 
just beyond the small bowel anastomosis and at the terminal 
ileum that are unchanged in appearance from the prior MR and are 
in keeping with chronic fibro-stenosing Crohn's disease. There 
are no definite features to suggest active inflammation." Pt's 
diet was advanced, and he remained asymptomatic without further 
black stool. He was maintained on a PPI, and sucralfate slurry 
was added. Patency endoscopy with capsule is being considered 
and may be pursued in the outpatient setting. Pt followed 
closely by GI Dr ___. 

#2. pancytopenia: Likely related to ___ toxicity. ___ was 
therefore held, and other possible etiologies were checked, such 
as parvovirus and CMV. Those results were pending at the time of 
discharge. WBC rose to 4, and pt was discharged off ___. 
Macrocytosis was attributed to known vitamin B12 deficiency. He 
is to return to clinic for labs on ___.  

#3. Crohns: stable, no evidence active disease. ___ discontinued 
as above, continued pentasa. 

#4. Chronic pain: stable, continued home regimen

dvt ppx:venodynes

full code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
2. Fentanyl Patch 50 mcg/h TD Q72H 
3. Mercaptopurine 100 mg PO DAILY 
4. Mesalamine ___ mg PO BID 
5. Nortriptyline 50 mg PO HS 
6. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN pain 
7. Pregabalin 300 mg PO BID 
8. Prochlorperazine 10 mg PO Q6H:PRN nausea 

 
Discharge Medications:
1. Fentanyl Patch 50 mcg/h TD Q72H 
2. Mesalamine ___ mg PO BID 
3. Nortriptyline 50 mg PO HS 
4. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN pain 
5. Pregabalin 300 mg PO BID 
6. Prochlorperazine 10 mg PO Q6H:PRN nausea 
7. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
8. Sucralfate 1 gm PO QID 
RX *sucralfate [Carafate] 1 gram/10 mL 10ml suspension(s) by 
mouth four times a day Refills:*0
9. Cyanocobalamin 1000 mcg IM/SC MONTHLY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# GI bleeding of undetermined etiology 
# small ___ tear 
 
Secondary:  
# Crohn's disease 
# probable ___ toxicity 
# peripheral neuropathy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
please see below
 
Followup Instructions:
___